US05338742
4-(3-(4-(4-chlorophenoxy)phenyl)propyl)pyridine
To 0.308 g. of picoline in 20 mL of tetrahydrofuran, which was cooled to -78° C., was added 1.6 mL of lithium diisopropyl amide, and the mixture was stirred at -78° C. for 30 minutes. The mixture was then allowed to warm to -10° C. for 2 hours, then cooled again to -78° C. There was then added a solution of 1.0 g. of 1-(4-chlorophenoxy)-4-(2-bromoethyl)benzene in 20 mL of tetrahydrofuran. This mixture was stirred for 30 minutes at -78° C., then allowed to warm to room temperature and stirred overnight. 50 mL of water was added dropwise and the tetrahydrofuran was removed by reducing pressure. The residue was extracted with ethyl acetate, which was concentrated to dryness. The product was purified by HPLC (silica gel 70% pentane; 30% ethyl acetate over 180 minutes) to give 0. 107 g. of an oil.

reactant | picoline | N1=C(C=CC=C1)C | C6H7N
reactant | lithium diisopropyl amide | 1.6 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-(4-chlorophenoxy)-4-(2-bromoethyl)benzene | ClC1=CC=C(OC2=CC=C(C=C2)CCBr)C=C1 | C14H12BrClO
reactant | water | 50 mL | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-(3-(4-(4-chlorophenoxy)phenyl)propyl)pyridine | ClC1=CC=C(OC2=CC=C(C=C2)CCCC2=CC=NC=C2)C=C1 | C20H18ClNO
